US04794183
dl-cis-2-Hexadecyloxymethyl-3-hydroxytetrahydropyran
3.011 g of dl-2-hexadecyloxymethyltetrahydropyran-3-one (prepared as described in Preparation 3) were dissolved in 10 ml of tetrahydrofuran and cooled with ice. 12 ml of a 1M tetrahydrofuran solution containing L-selectride were added dropwise over 10 minutes, and the reaction mixture was then stirred at 0°-5° C. for 30 minutes and at room temperature for 60 minutes. The reaction mixture was then ice-cooled again, and 5 ml of a 10% w/v aqueous solution of sodium hydroxide were added at 5°-15° C. 5 ml of 30% hydrogen peroxide were added little by little at 15°-30° C. The mixture was stirred at room temperature for 2 hours, after which water was added, and the resulting mixture was separated. The water layer was extracted twice with diethyl ether. The organic layer and the extracts were combined, washed, dried and condensed by evaporation under reduced pressure. The residue, 2.84 g, was purified by chromatography using a silica gel Lobar C column. The fractions eluted with mixtures of ethyl acetate and hexane ranging from 1:4 to 1:3 by volume gave 2.381 g of the title compound as crystals, melting at 67.5°-68.5° C. (ethyl acetate).

reactant | 2-hexadecyloxymethyltetrahydropyran-3-one | C(CCCCCCCCCCCCCCC)OCC1OCCCC1=O | C22H42O3
reactant | L-selectride | CCC([BH-](C(CC)C)C(CC)C)C.[Li+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | 5 ml | OO | H2O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1M | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | cis-2-Hexadecyloxymethyl-3-hydroxytetrahydropyran | 2.381 g | C(CCCCCCCCCCCCCCC)OC[C@@H]1OCCC[C@@H]1O | C22H44O3
